* C:\users\benrico\Documents\edesign-344\amp2.asc
* Generated by LTspice 24.1.7 for Windows.
V1 N001 0 30
V2 N006 0 SINE(4 0 1000) AC 10
Q1 N001 N003 N004 0 2TIP41C
Q2 0 N012 N011 0 2TIP42C
R1 N008 N011 0.1
R2 N004 N008 0.1
R3 N001 N002 3.3k
R4 N010 0 3.3k
D1 N005 N006 1N4148
D2 N006 N007 1N4148
R5 N009 N008 27
V3 N009 0 15
Q3 0 N010 N012 0 2N3906
Q4 N001 N002 N003 0 2N3904
D3 N007 N010 1N4148
D4 N002 N005 1N4148
.model D D
.lib C:\users\benrico\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\benrico\AppData\Local\LTspice\lib\cmp\standard.bjt
.lib models.cir
.tran 0 0.02 0.001 0.00001
* .ac dec 100 100 100000
.TEMP 138
.backanno
.end
